US06114532
4-[(5-(quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-amino]-benzamidine-hydrochloride
Prepared analogously to Example 1e from 4-[(5-(quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-amino]-benzonitrile and hydrochloric acid/ammonium carbonate in ethanol.

reactant | 4-[(5-(quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-amino]-benzonitrile | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=CC2=C(N(C(=N2)NC2=CC=C(C#N)C=C2)C)C=C1 | C24H18N6O2S
reactant | hydrochloric acid ammonium carbonate | Cl.C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[(5-(quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-amino]-benzamidine-hydrochloride | Cl.N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=CC2=C(N(C(=N2)NC2=CC=C(C(=N)N)C=C2)C)C=C1 | InChI=1S/C24H21N7O2S.ClH/c1-31-20-12-11-18(30-34(32,33)21-6-2-4-15-5-3-13-27-22(15)21)14-19(20)29-24(31)28-17-9-7-16(8-10-17)23(25)26;/h2-14,30H,1H3,(H3,25,26)(H,28,29);1H
